US08623850B2
3-Methoxy-estra-1,3,5(10),15-tetraen-17-yl 4-nitrobenzoate
The solution of 43.9 g of 3-methoxy-17β-hydroxyestra-1,3,5(10),15-tetraene in 1.61 tetrahydrofuran is treated with 121 g of triphenylphosphine, 27.1 g of 4-nitrobenzoic acid and 30.9 ml of diisopropyl azodicarboxylate and stirred at 23° C. for 2 hours. This is treated with saturated sodium chloride solution, extracted with ethyl acetate, and the combined organic extracts are washed with saturated sodium chloride solution and dried over sodium sulfate. The residue obtained after filtration and solvent removal is taken up 1.2 l acetone, treated with 80 ml of a 30% hydrogen peroxide solution with cooling, and after 20 minutes poured with cooling into 600 ml of a semi-concentrated sodium thiosulfate solution. This is extracted with ethyl acetate, and the combined organic extracts are washed with saturated sodium chloride solution and dried over sodium sulfate. The residue obtained after filtration and solvent removal is purified by recrystallisation. 52.5 g of the title compound are isolated.

reactant | 3-methoxy-17β-hydroxyestra-1,3,5(10),15-tetraene | 43.9 g | COC1=CC=2CC[C@H]3[C@@H]4C=C[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)O | C19H24O2
reactant | triphenylphosphine | 121 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-nitrobenzoic acid | 27.1 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | diisopropyl azodicarboxylate | 30.9 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Methoxy-estra-1,3,5(10),15-tetraen-17-yl 4-nitrobenzoate | 52.5 g | [N+](=O)([O-])C1=CC=C(C(=O)OC2[C@]3(C)[C@@H](C=C2)[C@@H]2CCC=4C=C(C=CC4[C@H]2CC3)OC)C=C1 | C26H27NO5
